US07732440B2
3-(4-Hydroxycyclohexyl)-2-(10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-N-(1-methyl-1H-pyrazol-3-yl)propionamide
50 mg of 2-(10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-N-(1-methyl-1H-pyrazol-3-yl)-3-(4-oxocyclohexyl)propionamide are suspended in 20 ml of methanol, and 3.8 mg of sodium borohydride are added at room temperature. The mixture is stirred at room temperature for another hour. During the duration of the reaction, a clear solution slowly forms. The methanol is removed under reduced pressure, and the residue is extracted with ethyl acetate and water. The organic phase is washed twice with water and then dried over MgSO4 and concentrated under reduced pressure. The residue is lyophilized. This gives 42 mg of 3-(4-hydroxycyclohexyl)-2-(10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-N-(1-methyl-1H-pyrazol-3-yl)propionamide as a white amorphous solid.

reactant | 2-(10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-N-(1-methyl-1H-pyrazol-3-yl)-3-(4-oxocyclohexyl)propionamide | 50 mg | CN1C2=CC=CC=C2S(C=2C=CC(=CC12)C(C(=O)NC1=NN(C=C1)C)CC1CCC(CC1)=O)(=O)=O | C26H28N4O4S
reactant | sodium borohydride | 3.8 mg | [BH4-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 3-(4-Hydroxycyclohexyl)-2-(10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-N-(1-methyl-1H-pyrazol-3-yl)propionamide | OC1CCC(CC1)CC(C(=O)NC1=NN(C=C1)C)C1=CC=2N(C3=CC=CC=C3S(C2C=C1)(=O)=O)C | C26H30N4O4S
